US07807671B2
To a sealable flask containing ethyl 3-(4-fluoro-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-1-methyl-1H-pyrazole-5-carboxylate (0.047 g, 0.08 mmol) was added ethanolamine (0.7 mL). The mixture was sealed and heated to 50° C. for 20.5 h. The mixture was cooled to rt, and was diluted with DMF and was passed through a plug of celite to remove any solids. The DMF solution was purified by prep HPLC to give 3-(4-fluoro-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-N-(2-hydroxyethyl)-1-methyl-1H-pyrazole-5-carboxamide.TFA (0.014g) as an off-white solid. LCMS: m/e 588.7 (M+H)+, ret time 2.03 min (method 2) 1H NMR (500 MHz, CDCl3) δ ppm 8.35 (s, 1 H) 8.23 (s, 1 H) 7.50-7.61 (m, 6 H) 4.29 (s, 3 H) 3.78-3.85 (m, 4 H) 3.54-3.64 (m, 4 H) 3.40 (s, 2 H) 3.29-3.34 (m, 2 H) 2.79 (s, 1 H).

reactant | ethyl 3-(4-fluoro-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-1-methyl-1H-pyrazole-5-carboxylate | 0.08 mmol, 0.047 g | FC1=C2C(=C(N=C1)C1=NN(C(=C1)C(=O)OCC)C)NC=C2C(C(N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)=O | C27H25FN10O4
reactant | ethanolamine | 0.7 mL | C(O)CN | C2H7NO
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(4-fluoro-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-N-(2-hydroxyethyl)-1-methyl-1H-pyrazole-5-carboxamide | FC1=C2C(=C(N=C1)C1=NN(C(=C1)C(=O)NCCO)C)NC=C2C(C(N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)=O | C27H26FN11O4
